US05001160
To a solution of 114.5 g (0.5 mole) of 2-hydroxy-2-phenyl-1 piperidino-3-butyne in 500 mL of acetic acid and 50 mL of acetic anhydride is added 160 g (0.5 mole) of mercuric acetate. After being stirred overnight at room temperature, the mixture is poured into a 1-L round bottomed flask equipped with an overhead stirrer and diluted with 500 mL of methylene chloride. To this is added 86 g (1.18 mole) of acetamide and 1 L of celite. After being stirred overnight, the mixture is filtered through a large pad of celite. The filtrate is washed three times with water, twice with a 5% aqueous solution of sodium hydroxide, and once with brine. After the organic layer is dried over anhydrous magnesium sulfate, the solvent is removed under reduced pressure The residue is dissolved in a solution of 35 g (0.57 mole) of potassium hydroxide in 750 mL of methanol and heated to reflux for 4 hours; the solution is cooled and then poured onto ice. The mixture is extracted four times with methylene chloride. The organic layers are combined, washed four times with water, once with brine dried over anhydrous magnesium sulfate and the solvent removed under reduced pressure. Distillation of the residue gives 2-hydroxy-2-phenyl-1-piperidino-3-butanone.

reactant | 2-hydroxy-2-phenyl-1 piperidino-3-butyne | 0.5 mole, 114.5 g | OC(CN1CCCCC1)(C#C)C1=CC=CC=C1 | C15H19NO
reactant | acetamide | 1.18 mole, 86 g | C(C)(=O)N | C2H5NO
reactant | potassium hydroxide | 0.57 mole, 35 g | [OH-].[K+]
solvent | acetic acid | 500 mL | C(C)(=O)O | C2H4O2
solvent | acetic anhydride | 50 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | methylene chloride | 500 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 750 mL | CO | CH4O
product | 2-hydroxy-2-phenyl-1-piperidino-3-butanone | OC(CN1CCCCC1)(C(C)=O)C1=CC=CC=C1 | C15H21NO2
